US05965761
27.6 ml of a 1.6N butyllithium solution were added dropwise at 0° C. within 10 minutes to a solution of 6.4 ml of trimethyl phosphonoacetate in 50 ml of dry tetrahydrofuran. The mixture was stirred at 0° C. for 1.5 hours and thereafter a solution of 11.5 g of crude trans-4'-[4-(3-butenyl)cyclohexyl]biphenyl-4-carboxaldehyde in 50 ml of dry tetrahydrofuran was added dropwise within 5 minutes at the same temperature. Subsequently, the mixture was warmed slowly to room temperature and left to react for 15 hours. The reaction mixture was then partitioned between methylene chloride and 1N hydrochloric acid and the organic phase was washed with saturated sodium bicarbonate solution and water, dried over magnesium sulphate and evaporated. Chromatography on silica gel with ethyl acetate/hexane (1:9) and subsequent repeated recrystallization from hexane/ethyl acetate gave methyl trans-(E)-3-{4'-[4-(3-butenyl)cyclohexyl]biphenyl-4-yl}acrylate.

reactant | butyllithium | 1.6N | C(CCC)[Li]
reactant | trimethyl phosphonoacetate | 6.4 ml | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | trans-4'-[4-(3-butenyl)cyclohexyl]biphenyl-4-carboxaldehyde | 11.5 g | C(CC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C23H26O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl trans-(E)-3-{4'-[4-(3-butenyl)cyclohexyl]biphenyl-4-yl}acrylate | C(CC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)/C=C/C(=O)OC | C26H30O2
